US08372874B2
Synthesis of (S)-3-Hydroxy-2,2-dimethyl-butyric acid methyl ester
The reaction is carried out in a 100-mL autoclave. 2,2-Dimethyl-3-oxo-butyric acid methyl ester (4.0 g, 27.8 mmol) is dissolved in 35 mL of degassed methanol under Argon atomosphere. Dichloro[(S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl]ruthenium (II) (230.0 mg, 0.28 mmol) is added and the reaction mixture is purged with nitrogen twice and once with hydrogen. The autoclave is pressurized with hydrogen to 500 psi and stirred at 30° C. for 40 h. After this time, the reaction mixture is filtered through celite and concentrated under reduced pressure to provide 3.8 g of the title compound as a green oil with ee of 98%. Yield: 95%. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.15 (3H, d, J=6.4 Hz), 1.2 (6H, d, J=5.2 Hz), 2.6 (1H, br. S), 3.7 (3H, s), 3.9 (1H, q, J=6.4 Hz).

reactant | 2,2-Dimethyl-3-oxo-butyric acid methyl ester | 27.8 mmol, 4.0 g | COC(C(C(C)=O)(C)C)=O | C7H12O3
solvent | methanol | 35 mL | CO | CH4O
product | (S)-3-Hydroxy-2,2-dimethyl-butyric acid methyl ester | 3.8 g, Yield: 95% | COC(C([C@H](C)O)(C)C)=O | C7H14O3
